US06420364B1
N-[3-Cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-propionamide
The title compound was prepared starting from 3-chloro benzo[d]isothiazole 1,1-dioxide and 2-amino-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide bis hydrochloride salt according to the procedure from Example 81, except that the compound was further purified by HPLC using a 20×250 mm C18 reverse phase column with the method being 40% acetonitrile in water to acetonitrile. MS, m/z 500=M+1.

reactant | 3-chloro benzo[d]isothiazole 1,1-dioxide | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 2-amino-N-[3-cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-propionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CN(CC1)C(CC)CC)C#N)CC1CCCCC1
product | N-[3-Cyano-1-(1-ethyl-propyl)-pyrrolidin-3-yl]-3-cyclohexyl-2-(1,1-dioxo-1H-1λ6-benzo[d]isothiazol-3-ylamino)-propionamide | C(#N)C1(CN(CC1)C(CC)CC)NC(C(CC1CCCCC1)NC1=NS(C2=C1C=CC=C2)(=O)=O)=O | C26H37N5O3S
